Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Weakness
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ is a ___ year old woman with metastatic HCC, 
sp
TACE and more recently sorafenib, who is admitted from the ED
with several days of weakness found to have new ___ in the
setting of rising bilirubin and progression of liver tumor.

Patient has had relatively rapid progression of her liver tumor
over the last several weeks despite initiation of sorafenib. She
had an MRCP on ___ that showed This has led her oncology team 
to
plan for initiation of FOLFOX, which was scheduled for tomorrow. 


However, over the last three days, patient developed increasing
difficulty walking, which she attributes to bilateral leg
heaviness and weakness. She denies frank shortness of breath. 
She
continues to have chronic band-like epigastric abdominal pain
well controlled with her oxycodone. She also has persistent
nausea and non-bloody emesis. She denies fevers or chills. No
dysphagia. No URTI. She has atypical chest pain, including at
present. Mild intermittent cough. No frank SOB. No diarrhea, 
last
BM this am was normal. Denies dysuria. She has chronic bilateral
lower extremity edema. She has some new pain in the back of her
right thigh. No new rashes. Her weakness progressed to the point
she was essentially bedbound, and she presented to the ED.

In the ED, initial VS were pain 5, T 97.1, HR 111, BP 122/66, RR
18, O2 96%RA. Initial labs notable for Na 132, K 4.5, HCO3 21, 
Cr
1.5, WBC 15.5, HCT 37.0, PLT 581, INR 1.4, ALT 139, AST 335, ALP
1441, TBili 5.3, Alb 2.4, lactate 3.7. RUQ US showed no biliary
ductal dilation and cirrhotic liver with known nectrotic mass 
and
right hydronephrosis similar to recent MRCP. CXR showed no acute
process. Patient was given IV dilaudid, IV Zofran, LR, and IV
zosyn. VS prior to transfer were pain 4, HR 112, BP 130/75, RR
18, O2 97%RA.

REVIEW OF SYSTEMS: 
A complete 10-point review of systems was performed and was
negative unless otherwise noted in the HPI.
 
Past Medical History:
PAST ONCOLOGIC HISTORY:
?___:
- ___:  s/p cryoablation (___)

___:
- Presented with abdominal pain, found to have infrarenal aortic
dissection, hepatic mass
- ___:  planned resection aborted due to carcinomatosis.
Performed laparoscopic peritoneal biopsy and hernia repair.  Bx
showed HCC in peritoneal nodules and liver.
- ___:  TACE
- ___:  Start sorafenib
 
PAST MEDICAL HISTORY: 
- HTN
- HLD
- DM2 
- CAD s/p 2 stents ___ years ago (at ___) 
- Infrarenal aortic dissection
- Colon polyps (adenomas and hyperplastic)

 
Social History:
___
Family History:
Relative Status   Age Problem              Onset Comments       
Mother   Living   ___  CORONARY ARTERY                           
                      DISEASE                                   
                      CORONARY BYPASS                           
                      SURGERY                                   
                      CHOLECYSTECTOMY                           
                      DIABETES MELLITUS                         

Father   ___ ___  CORONARY ARTERY                           
                      DISEASE                                   
                      CORONARY BYPASS                           
                      SURGERY                                   
                      CHOLECYSTECTOMY                           

Sister   Living   ___  CHOLECYSTECTOMY                 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
=================================
VS: T 97.7 HR 96 BP 119/64 RR 14 SAT  96% O2 on RA
GENERAL: Pleasant, but chronically ill and tired appearing woman
laying in bed in no apparent distress.
EYES: Icteric sclerea, PERLL, EOMI; 
ENT: Oropharynx with very dry MM, no other lesions. JVD not
elevated 
CARDIOVASCULAR: Regular rate and rhythm, no murmurs, rubs, or
gallops; 2+ radial pulses
RESPIRATORY: Appears mildly tachypeic and speaking in short
sentences, clear to auscultation bilaterally with only moderate
air movement 
GASTROINTESTINAL: Normal bowel sounds; distended; diffusely
tender but soft without guarding. Marked hepatomegaly noted with
liver tracking into right pelvis. Tympanic left side of abdomen. 

MUSKULOSKELATAL: Warm, well perfused extremities with 2+ pitting
edema bilaterally into the thighs. Decreased bulk.
NEURO: Alert, oriented, CN III-XII intact, motor and sensory
function grossly intact, no asterixis
SKIN: No significant rashes

DISCHARGE PHYSICAL EXAM: 
==========================
VS: 97.8 ___
GENERAL: Pleasant, chronically ill, tired appearing woman 
sitting
in bedside chair in no apparent distress.
EYES: Icteric sclerea, PERLL, EOMI; 
ENT: Oropharynx with very dry MM, no other lesions. JVD not
elevated 
CARDIOVASCULAR: Regular rate and rhythm, no murmurs, rubs, or
gallops; 2+ radial pulses
RESPIRATORY: Appears mildly tachypeic and speaking in short
sentences, clear to auscultation bilaterally with only moderate
air movement 
GASTROINTESTINAL: Normal bowel sounds; distended; diffusely
tender but soft without guarding. Marked hepatomegaly noted with
liver tracking into right pelvis. Tympanic left side of abdomen.
Tender in upper quadrants. 
MUSKULOSKELATAL: Warm, well perfused extremities with 2+ pitting
edema bilaterally into the thighs. Decreased bulk.
NEURO: Alert, oriented, CN III-XII intact, motor and sensory
function grossly intact, no asterixis
SKIN: No significant rashes
 
 
Pertinent Results:
ADMISSION LABS:
=================
___ 05:48PM BLOOD WBC-15.5* RBC-5.11 Hgb-11.3 Hct-37.0 
MCV-72* MCH-22.1* MCHC-30.5* RDW-23.8* RDWSD-58.4* Plt ___
___ 05:48PM BLOOD Neuts-88.0* Lymphs-7.1* Monos-3.9* 
Eos-0.1* Baso-0.1 NRBC-0.2* Im ___ AbsNeut-13.60* 
AbsLymp-1.09* AbsMono-0.60 AbsEos-0.02* AbsBaso-0.02
___ 06:55PM BLOOD ___ PTT-29.7 ___
___ 05:48PM BLOOD Glucose-168* UreaN-59* Creat-1.5* Na-132* 
K-4.5 Cl-90* HCO3-21* AnGap-21*
___ 06:55PM BLOOD ALT-139* AST-335* CK(CPK)-149 
AlkPhos-1441* TotBili-5.3*
___ 06:55PM BLOOD Lipase-75*
___ 06:55PM BLOOD CK-MB-2
___ 06:55PM BLOOD cTropnT-<0.01
___ 06:55PM BLOOD Albumin-2.4*
___ 07:28PM BLOOD Lactate-3.7*

STUDIES: 
=========

___ LOWER EXT VEINS  
IMPRESSION: 
No evidence of deep venous thrombosis in the right lower 
extremity veins.
 
___ OR GALLBLADDER US
IMPRESSION:
1. Cirrhotic liver with large ill-defined partially necrotic 
mass better
visualized on recent MRCP.
2. Mild right hydronephrosis, similar compared to prior MR.
3. Trace perihepatic ascites.
4. No biliary ductal dilatation.

___ (PA & LAT)  
IMPRESSION:  
Low lung volumes.  No acute findings in the chest.  Port-A-Cath 
tip in the cavoatrial junction.

___ ECG
NSR

 Intervals  Axes
RatePRQRSQTQTc (___)  P  QRS    T
___     9

DISCHARGE LABS: 
=====================
___ 05:52AM BLOOD WBC-16.8* RBC-3.70* Hgb-8.5* Hct-27.5* 
MCV-74* MCH-23.0* MCHC-30.9* RDW-23.2* RDWSD-59.2* Plt ___
___ 05:52AM BLOOD Plt ___
___ 05:52AM BLOOD Glucose-66* UreaN-73* Creat-1.7* Na-137 
K-3.7 Cl-95* HCO3-21* AnGap-21*
___ 05:52AM BLOOD ALT-115* AST-289* LD(LDH)-551* 
AlkPhos-808* TotBili-5.7*
___ 05:52AM BLOOD Albumin-3.1* Calcium-8.7 Phos-5.4* Mg-2.3
 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with metastatic 
HCC, s/p TACE most recently sorafenib, who initially presented 
with fatigue, found to have worsening hyperbilirubinemia and ___ 
on admission. With T. bili 2.1 on admission that trended up to 
5.9 during hospitalization, attributed to worsening metastatic 
disease progression with known extensive progression of hepatic 
disease on recent MRCP ___. ___ was also likely in the 
setting of worsening hepatic function with poor PO intake in 
several days prior to admission. Per ___, was not a candidate for 
PTBD with no intervenable lesion identified on MRCP. Antibiotics 
were deferred given lower suspicion for cholangitis. After 
extensive goals of care conversation with primary oncologist Dr. 
___, patient was transitioned to home with hospice prior 
to discharge. 

Acute Issues:
================
# Hyperbilirubinemia
# Metastatic HCC - History of metastatic HCC s/p TACE most 
recently on sorafenib followed by primary oncologist Dr. ___, 
presenting with fatigue, found to have worsening 
hyperbilirubinemia on admission. With T. bili 2.1 on admission 
that trended up to 5.9 during hospitalization. On recent MRCP 
___, was found to have extensive progression of disease 
progression, multiple new large confluent peritoneal implants, 
innumerable new hepatic masses almost replacing the entirety of 
the liver. Hyperbilirubinemia was predominantly direct in the 
setting of worsening disease progression. Per ___ was not a 
candidate for PTBD with no intervenable lesion identified on 
MRCP. Antibiotics were deferred given lower suspicion for 
cholangitis. After extensive goals of care conversation with 
primary oncologist Dr. ___, patient was transitioned to 
home with hospice prior to discharge. Plan to not continue with 
sorafenib.

# ___ - Initially with ___ on admission Cr 1.5. Was thought to 
be pre-renal give concurrent hyponatremia of 133 with history of 
poor PO intake and also from hyperuricemia per below with uric 
acid 14.6 on admission. Was thought to be intravascularly 
depleted with extravascular volume overload given chronic lower 
extremity edema. Given hypoalbuminemic, was administered albumin 
50 x 2 doses. Creatinine trended up to 1.7, prior to discharge. 
Did not pursue additional diagnostic workup or intervention 
given goals of care per above and plan for discharge home with 
hospice.

# Hyponatremia - Presented with Na 133 on admission, likely 
hypovolemic hyponatremia, corrected to 137 prior to discharge 
with albumin administration. 

# Hyperuricemia - Presented with uric acid 14.6 on admission. 
Did not meet criteria for rasburicase administration given Cr 
<1.8. Received albumin per above, however additional 
intervention was not pursued per goals of care. 

# Portal vein thrombosis
# Tumor thrombus - With known portal vein thrombosis and tumor 
thrombus. Was previously on apixiban, however given goals of 
care per above, was discontinued and also held on discharge. 

Chronic Issues: 
===============
# Diabetes - In the setting of disease and poor PO intake, the 
patient had recently stopped home lantus due to low blood sugars 
in am, she continued to receive ISS during hospitalization.

# HTN
# CAD Prevention - Home ASA, amlodipine, and statin were held 
during hospitalization and on discharge in order to help reduce 
pill burden given discharge home with hospice. Metoprolol 
tartrate 50 BID was continued. 

Transitional Issues:
======================
[ ] NEW/CHANGED Medications
- Started Dexamethasone 1 mg PO QAM for appetite stiulation 
- Started Morphine SR (MS ___ 15 mg PO Q12H for 
cancer-related pain
- Started omeprazole 40mg PO QD
- Increased home oxycodone 5mg PO Q4-6H:PRN to Q2H:PRN 
- Held Ascorbic Acid ___ mg PO DAILY
- Held Aspirin 81 mg PO DAILY 
- Held Ferrous Sulfate 325 mg PO DAILY 
- Held Multivitamins 1 TAB PO DAILY 
- Held Thiamine 100 mg PO DAILY 
- Held Apixaban 5 mg PO BID 
- Held Cholestyramine Light (cholestyramine-aspartame) 4 gram 
oral TID 
- Held Simvastatin 40 mg PO QPM 

[ ] Discharged home with hospice continue to assess indicated 
hospice services
[ ] Titrate pain regimen as indicated given underlying 
cancer-related pain

#CODE: DNR/DNI 
#EMERGENCY CONTACT HCP: Husband, ___ ___

Greater than 30 minutes spent in discharge to hospice. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild 
2. amLODIPine 5 mg PO DAILY 
3. Aspirin 81 mg PO DAILY 
4. Metoprolol Tartrate 50 mg PO BID 
5. OxyCODONE (Immediate Release) 5 mg PO Q4-6H PRN PAIN Pain - 
Moderate 
6. Simvastatin 40 mg PO QPM 
7. Ondansetron 8 mg PO Q8H:PRN nausea 
8. Furosemide 40 mg PO DAILY:PRN leg swelling 
9. Apixaban 5 mg PO BID 
10. Cholestyramine Light (cholestyramine-aspartame) 4 gram oral 
TID 
11. Insulin SC 
      Sliding Scale
Insulin SC Sliding Scale using HUM Insulin
12. LORazepam 0.5 mg PO Q8H:PRN anxiety/nausea 
13. Metoclopramide 10 mg PO TID 
14. Ascorbic Acid ___ mg PO DAILY 
15. Ferrous Sulfate 325 mg PO DAILY 
16. Multivitamins 1 TAB PO DAILY 
17. Senna Laxative-Stool Softener (sennosides-docusate sodium) 
8.6-50 mg oral BID:PRN 
18. Thiamine 100 mg PO DAILY 

 
Discharge Medications:
1.  Allopurinol ___ mg PO DAILY 
RX *allopurinol ___ mg 1 tablet(s) by mouth Daily Disp #*30 
Tablet Refills:*0 
2.  Dexamethasone 1 mg PO QAM 
RX *dexamethasone 1 mg 1 tablet(s) by mouth Daily Disp #*20 
Tablet Refills:*0 
3.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*30 Capsule Refills:*0 
4.  Morphine SR (MS ___ 15 mg PO Q12H 
RX *morphine 15 mg 1 tablet(s) by mouth every twelve (12) hours 
Disp #*40 Tablet Refills:*0 
5.  Omeprazole 40 mg PO DAILY 
RX *omeprazole 40 mg 1 capsule(s) by mouth Daily Disp #*30 
Capsule Refills:*0 
6.  Senna 8.6 mg PO BID:PRN Constipation - First Line 
RX *sennosides [senna] 8.6 mg 1 by mouth BID:PRN Disp #*30 
Tablet Refills:*0 
7.  OxyCODONE (Immediate Release) 5 mg PO Q2H:PRN Pain - Severe 
RX *oxycodone 5 mg 1 tablet(s) by mouth Q2H:PRN Disp #*30 Tablet 
Refills:*0 
8.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild  
9.  amLODIPine 5 mg PO DAILY  
10.  Cholestyramine Light (cholestyramine-aspartame) 4 gram oral 
TID  
11.  Furosemide 40 mg PO DAILY:PRN leg swelling  
12.  LORazepam 0.5 mg PO Q8H:PRN anxiety/nausea 
RX *lorazepam 0.5 mg 1 by mouth Q8H:PRN Disp #*15 Tablet 
Refills:*0 
13.  Metoclopramide 10 mg PO TID  
14.  Metoprolol Tartrate 50 mg PO BID  
15.  Ondansetron 8 mg PO Q8H:PRN nausea 
RX *ondansetron 8 mg 1 tablet(s) by mouth Q8H:PRN Disp #*30 
Tablet Refills:*0 
16.  Senna Laxative-Stool Softener (sennosides-docusate sodium) 
8.6-50 mg oral BID:PRN  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis: 
Metastatic HCC
Hyperbilirubinemia

Secondary Diagnosis:
___
Hyponatremia
Chronic cancer associated pain
Portal vein thrombosis
Tumor thrombus
Type 2 Diabetes
Microcytic anemia
Hptertension
CAD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___,

It was a pleasure caring for you at ___ 
___.

WHY WAS I IN THE HOSPITAL?
- You initially came to the hospital because you were feeling 
weak. 

WHAT HAPPENED TO ME IN THE HOSPITAL?
- You underwent imaging to determine why you were feeling weak 
and were found to have progression of your cancer
- You were found to have worsening liver function tests because 
of your cancer
- You were treated with medications to help reduce your pain and 
nausea
- You had a meeting with your husband and medical doctors where 
___ that given the progression of your disease, you 
would like to go home with hospice, reduce the number of 
medications you take, defer further chemo and focus on spending 
time with the people you love and being comfortable.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
- Continue to take all your medications as prescribed and keep 
your follow-up appointments as listed below

We wish you the best!

Sincerely,

Your ___ Care Team
 
Followup Instructions:
___